US08349826B2
K.i. 6-[(R)-5-(tert-butyl-dimethyl-silanyloxy)-2-hydroxy-pentylamino]-4H-benzo[1,4]thiazin-3-one
A mixture of tert-butyl-dimethyl-((R)-3-oxiranyl-propoxy)-silane (13 g, 60 mmol, prepared according to Org. Lett. 2005, 7, 3997) and 6-amino-4H-benzo[1,4]thiazin-3-one (10.8 g) in EtOH/H2O (9:1, 325 mL) was heated at reflux overnight. The volatiles were removed under reduced pressure and the residue purified by CC (Hept/EA 1:1) to give the desired intermediate (6.8 g, 28% yield) as a brown oil.

reactant | tert-butyl-dimethyl-((R)-3-oxiranyl-propoxy)-silane | 60 mmol, 13 g | C(C)(C)(C)[Si](OCCC[C@H]1OC1)(C)C | C11H24O2Si
reactant | 6-amino-4H-benzo[1,4]thiazin-3-one | 10.8 g | NC=1C=CC2=C(NC(CS2)=O)C1 | C8H8N2OS
solvent | EtOH H2O | 325 mL | CCO.O
product | 6-[(R)-5-(tert-butyl-dimethyl-silanyloxy)-2-hydroxy-pentylamino]-4H-benzo[1,4]thiazin-3-one | 6.8 g, 28% yield | C(C)(C)(C)[Si](OCCC[C@H](CNC=1C=CC2=C(NC(CS2)=O)C1)O)(C)C | C19H32N2O3SSi
